US05457104
EXAMPLE 31 7-(4-Amino-7-methyl-1,3,3a,4,7,7a-hexahydroisoindol-2-yl)-8-chloro-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
270 mg (1 mmol) of 8-chloro-1-ethyl-7-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid together with 180 mg (1.2 mmol) of 4-amino-7-methyl-1,3,3a,4,7,7a-hexahydroisoindole and 224 mg (2 mmol) of 1,4-diazabicyclo[2.2.2]octane are heated for three hours at 100° C. in 10 ml of dimethyl sulphoxide.

reactant | 8-chloro-1-ethyl-7-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1 mmol, 270 mg | ClC=1C(=CC=C2C(C(=CN(C12)CC)C(=O)O)=O)F | C12H9ClFNO3
reactant | 4-amino-7-methyl-1,3,3a,4,7,7a-hexahydroisoindole | 1.2 mmol, 180 mg | NC1C2CNCC2C(C=C1)C | C9H16N2
reactant | 1,4-diazabicyclo[2.2.2]octane | 2 mmol, 224 mg | N12CCN(CC1)CC2 | C6H12N2
solvent | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
product | 7-(4-Amino-7-methyl-1,3,3a,4,7,7a-hexahydroisoindol-2-yl)-8-chloro-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | NC1C2CN(CC2C(C=C1)C)C1=CC=C2C(C(=CN(C2=C1Cl)CC)C(=O)O)=O | C21H24ClN3O3
